US07625908B2
A mixture of 5-{(1R)-2-[allyl(methyl)amino]-1-methylethoxy}-N-{3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}quinazolin-4-amine (2.25 g, 4.8 mmol) and chlorotris(triphenylphosphine)rhodium(I) (463 mg, 0.48 ml) in acetonitrile—water (17 ml:3 ml) was heated at reflux for 3 hours. After cooling, the solvents were evaporated under vacuum. The residue was purified by chromatography on silica gel (eluant: 2 to 4% methanol in DCM) to give 5-[(1R)-1-methyl-2-(methylamino)ethoxy]-N-{3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}quinazolin-4-amine (1.70 g, 83%); Mass spectrum: MH+ 430.

reactant | 5-{(1R)-2-[allyl(methyl)amino]-1-methylethoxy}-N-{3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}quinazolin-4-amine | 4.8 mmol, 2.25 g | C(C=C)N(C[C@H](OC1=C2C(=NC=NC2=CC=C1)NC1=CC(=C(C=C1)OC=1C=NC(=CC1)C)C)C)C | C28H31N5O2
solvent | acetonitrile water | 17 ml | C(C)#N.O
catalyst | chlorotris(triphenylphosphine)rhodium(I) | 0.48 ml, 463 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Cl-].[Rh]
product | 5-[(1R)-1-methyl-2-(methylamino)ethoxy]-N-{3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}quinazolin-4-amine | 1.70 g, 83% | C[C@H](CNC)OC1=C2C(=NC=NC2=CC=C1)NC1=CC(=C(C=C1)OC=1C=NC(=CC1)C)C | C25H27N5O2
